US05750531
Step 2: 2-(2-methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propylpyrimidine hydrochloride
After 4-fluoro-2-methylaniline(0.35 ml, 3.15 mmol) was added to a mixture solution of 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propyl-2-chloropyrimidine(0.5 g, 1.66 mmol) and dimethylformamide(5 ml), 0.2 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoro-2-methylaniline | 3.15 mmol, 0.35 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propyl-2-chloropyrimidine | 1.66 mmol, 0.5 g | CC1N(CCC2=CC=CC=C12)C1=NC(=NC(=C1)CCC)Cl | C17H20ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2-methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propylpyrimidine hydrochloride | 0.2 g, Yield: 28.2% | Cl.CC1=C(C=CC(=C1)F)NC1=NC(=CC(=N1)N1C(C2=CC=CC=C2CC1)C)CCC | InChI=1S/C24H27FN4.ClH/c1-4-7-20-15-23(29-13-12-18-8-5-6-9-21(18)17(29)3)28-24(26-20)27-22-11-10-19(25)14-16(22)2;/h5-6,8-11,14-15,17H,4,7,12-13H2,1-3H3,(H,26,27,28);1H
